US07696223B2
a) 4-Furan-2-yl-7-hydroxy-2-phenyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester
A mixture of 4-bromo-7-hydroxy-2-phenyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester (248 mg, 0.66 mmole), 2-(tributylstannyl)furan (414 μl, 1.31 mmole) and bis(triphenylphosphine)-palladium(II) dichloride (46 mg, 0.06 mmole) in dimethylformamide (2.5 ml) was stirred at 130° C. for 25 min before it was cooled to room temperature, quenched with water, filtered. The filtrate was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel with a gradient of ethyl acetate and hexanes to give the title compound as a white solid (140 mg). MS: (+) m/z 367.00 (M+1).

reactant | 4-bromo-7-hydroxy-2-phenyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 0.66 mmole, 248 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)Br)N=C(S2)C2=CC=CC=C2)O | C15H11BrN2O3S
reactant | 2-(tributylstannyl)furan | 1.31 mmole, 414 μl | C(CCC)[Sn](C=1OC=CC1)(CCCC)CCCC
solvent | dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)-palladium(II) dichloride | 0.06 mmole, 46 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-Furan-2-yl-7-hydroxy-2-phenyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 140 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)C=1OC=CC1)N=C(S2)C2=CC=CC=C2)O | C19H14N2O4S
